US07960409B2
Step 4: (S)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)-4-(2-methyl-1,3-oxazol-4-yl)quinoline-2-carbonitrile
To a solution of (S)-1-(1-{[2-cyano-4-(2-methyl-1,3-oxazol-4-yl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1-(trifluoromethyl)propyl 4-nitrobenzoate (36 mg, 0.06 mmol) in THF (1.4 mL) was added lithium hydroxide 2M (150 uL, 0.3 mmol). The mixture was stirred at room temperature for 2 h. The reaction mixture was then diluted with ethyl acetate, washed with an ammonium chloride solution, brine, dried over MgSO4, filtered and concentrated to yield the title compound. The crude residue was purified by flash chromatography (10% acetone-90% dichloromethane) to give the desired product. 1H NMR (400 MHz, acetone-d6): δ 8.9 (d, 1H), 8.73 (s, 1H), 8.24 (d, 2H), 8.11 (s, 1H), 7.80 (d, 1H), 6.02 (s, 2H), 5.49 (s, 1H), 2.6 (s, 3H), 2.35 (m, 1H), 2.05 (m, 1H), 0.86 (t, 3H).

reactant | (S)-1-(1-{[2-cyano-4-(2-methyl-1,3-oxazol-4-yl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1-(trifluoromethyl)propyl 4-nitrobenzoate | 0.06 mmol, 36 mg | [N+](=O)([O-])C1=CC=C(C(=O)O[C@](CC)(C(F)(F)F)C=2N=NN(C2)CC2=CC=C3C(=CC(=NC3=C2)C#N)C=2N=C(OC2)C)C=C1 | C28H20F3N7O5
reactant | lithium hydroxide | 0.3 mmol, 2M, 150 uL | [OH-].[Li+]
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)-4-(2-methyl-1,3-oxazol-4-yl)quinoline-2-carbonitrile | O[C@](CC)(C(F)(F)F)C=1N=NN(C1)CC1=CC=C2C(=CC(=NC2=C1)C#N)C=1N=C(OC1)C | C21H17F3N6O2
